US07053082B1
(±)-7,8-dihydro-8-methyl-7-(N-methyl-carbamoyl)-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2.3]benzodiazepine
A mixture of 2.17 g (5.0 millimoles) of (±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3dioxolo[4,5-h][2,3]benzodiazepine-7-carboxylic acid-imidazolide, 75 ml of dichloro methane and 15 ml of a 33% ethanolic methyl amine solution is stirred for 3 hours. The reaction mixture is evaporated in vacuo and the residue is suspended in 75 ml of water. The crude product is filtered off, washed with 25 ml of water, dried and recrystallized from 25 ml of ethanol. Thus 1.68 g of the desired compound are obtained, yield 85%, mp.: 221–229° C.

reactant | (±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3dioxolo[4,5-h][2,3]benzodiazepine-7-carboxylic acid imidazolide | 5.0 millimoles, 2.17 g | CC1N(N=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C(=O)O.[N-]1C=NC=C1
reactant | methyl amine | CN | CH5N
solvent | dichloro methane | 75 ml | ClCCl | CH2Cl2
product | (±)-7,8-dihydro-8-methyl-7-(N-methyl-carbamoyl)-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2.3]benzodiazepine | 1.68 g, yield 85% | CC1N(N=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C(NC)=O | C20H20N4O5
